US07619095B2
2-Methyl-3-nitrobenzyl methanesulfonate (207 g ) dissolved in Acetonitrile (625 ml). A solution of (41.5 g) sodium cyanide in 200 ml pure water was added to the above solution and refluxed at 80-95° C. until the completion of reaction. Acetonitrile was distilled out and 1000 ml water was added to the residue followed by addition of 1000 ml dichloromethane. The mixture was stirred for 15 minutes followed by extraction. Dichloromethane is distilled out from organic layer and Cyclohexane is to the residue and stirred for 30 minutes to get 2-Methyl-3-nitro-phenylacetonitrile. It is filtered and dried to give 2-Methyl-3-nitro phenylacetonitrile (150-160 g) as brown solid.

reactant | 2-Methyl-3-nitrobenzyl methanesulfonate | 207 g | CS(=O)(=O)OCC1=C(C(=CC=C1)[N+](=O)[O-])C | C9H11NO5S
reactant | sodium cyanide | 41.5 g | [C-]#N.[Na+]
solvent | Acetonitrile | 625 ml | C(C)#N | C2H3N
solvent | water | 200 ml | O | H2O
product | 2-Methyl-3-nitro-phenylacetonitrile | CC1=C(C=CC=C1[N+](=O)[O-])CC#N | C9H8N2O2
